Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.2118356999
[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.854275764146
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2].[O:3]=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],2.59381376344
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8][H:9],4.43348252274
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.82422489244
[C:6][C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][O:11][H:12],-0.2126355763089999
[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.40890667536
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4],-0.31191874082
[C:3]([H:4])[C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11],-7.8652213793899985
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])#[C:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],3.0163069100300004
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],2.22185108488
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7].[H:8],4.02282958962
[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5][H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-5.6055131647000005
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[C:2]#[C:3],4.57111147478
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3],2.97243135057
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8][H:9]>>[C:5]([H:6])[O:7][C:8][H:9].[O:1][C:2]#[C:3][H:4],5.2797912175
[C:1]#[C:2][O:3][C:4]#[C:5][H:6].[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-2.43273707112
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.00917415184
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[H:1][C:2]#[C:3][O:4],3.52362918881
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],-1.30354828389
[O:1]=[C:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:4].[O:1]=[C:2]=[C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],2.14724987451
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11].[H:4],2.03349218076
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7],3.42980289376
[H:1].[O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.42780319387
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4](=[C:5](\[H:6])[O:7][H:8])\[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3],1.2909982489
[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.65639823431
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12].[H:4],4.29964346085
[H:11].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.01232034466
[O:1]=[C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13],2.13278499606
